US07585885B2
2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester (182 mg, 0.34 mmol) in methanol (4 mL) and add 10% palladium hydroxide on carbon (43 mg). Stir under 1 atmosphere of hydrogen gas overnight and filter through a filtering agent, wash with methanol and concentrate to give the title compound as a colorless oil (103 mg, 87% yield).

reactant | 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester | 0.34 mmol, 182 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1(C)C)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C34H44N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 43 mg | [OH-].[OH-].[Pd+2]
product | 2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester | 103 mg, 87% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1(C)C)[C@H]([C@H](CC1=CC=CC=C1)N)O | C20H32N2O3
